US04946837
7β-[2-(2-Amino-5-chlorothiazol-4-yl)-2(Z)methoxyiminoacetamido]-3-[(4,5,6,7-tetrahydrobenzothiazolium-3-yl)methyl]-3-cephem-4-carboxylate
7β-[2-(2-Amino-5-chlorothiazol-4-yl)-2(Z)-methoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid is reacted with 4,5,6,7-tetrahydrobenzothiazole in the same manner as described in Example 1 to give the above-identified compound.

reactant | 7β-[2-(2-Amino-5-chlorothiazol-4-yl)-2(Z)-methoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | NC=1SC(=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OC)Cl | C18H18ClN5O8S2
reactant | 4,5,6,7-tetrahydrobenzothiazole | S1C=NC2=C1CCCC2 | C7H9NS
product | 7β-[2-(2-Amino-5-chlorothiazol-4-yl)-2(Z)methoxyiminoacetamido]-3-[(4,5,6,7-tetrahydrobenzothiazolium-3-yl)methyl]-3-cephem-4-carboxylate | NC=1SC(=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CSC3=C2CCCC3)C(=O)[O-])C1=O)=N/OC)Cl | C21H21ClN6O5S3
